US07420083B2
2-Hydroxy-4-[2-({[1-phenylethylidene]amino}oxy)ethoxy]benzoic acid was prepared as a white solid (0.712 g, 27%) from 4-(2-bromo-ethoxy)-2-hydroxy-benzoic acid methyl ester and 1-phenyl-ethanone oxime using a procedure similar to that of step 1 of example 6. 1H NMR (400 MHz, DMSO-d6); δ 13.60 (bs, 1H), 11.50 (bs, 1H), 7.66 (m, 3H), 7.40 (m, 3H), 6.53 (dd, 1H), 6.52 (s, 1H), 4.44 (t, 2H), 4.32 (t, 2H), 2.18 (m, 2H).

reactant | 4-(2-bromo-ethoxy)-2-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCCBr)O)=O | C10H11BrO4
reactant | 1-phenyl-ethanone oxime | C1(=CC=CC=C1)C(C)=NO | C8H9NO
product | 2-Hydroxy-4-[2-({[1-phenylethylidene]amino}oxy)ethoxy]benzoic acid | OC1=C(C(=O)O)C=CC(=C1)OCCON=C(C)C1=CC=CC=C1 | C17H17NO5
